US06664272B2
1,3-Bis-(2-fluorobenzylidene)indan-2-one
A solution of 1.88 g (15.13 mmol) of 2-fluorobenzaldehyde in 3.0 mL of abs. ethanol was added over a period of 5 min to a solution containing 1.00 g (7.57 mmol) of 2-indanone and 90 mg (2.27 mmol) of NaOH in 40 mL of a 1:1 mixture of abs. ethanol and water at room temperature. The mixture was allowed to stir for 12 hrs and solids formed were collected by suction filtration and washed with cold ethanol and dried under high vacuum.

reactant | 2-fluorobenzaldehyde | 15.13 mmol, 1.88 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | ethanol | C(C)O | C2H6O
reactant | 2-indanone | 7.57 mmol, 1.00 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | NaOH | 2.27 mmol, 90 mg | [OH-].[Na+]
solvent | water | O | H2O
product | 1,3-Bis-(2-fluorobenzylidene)indan-2-one | FC1=C(C=C2C(C(C3=CC=CC=C23)=CC2=C(C=CC=C2)F)=O)C=CC=C1 | C23H14F2O
